US04335054
4-Phenylcinnamonitrile (trans)
This compound is prepared from 10.83 g (50 millimols) of biphenyl-4-carboxylic acid chloride and 3.31 g (62.5 millimols) of acrylonitrile, the mixture being stirredfor 2 hours at 120° C. The crude product is extracted, in a Soxhlet extractor, with 100 ml of n-hexane, and is recrystallised from methanol. 3.83 g (37% of theory) of yellow crystals, melting point 43.7° C., are obtained. Analysis for C15H11N: calculated C 87.77%, H 5.40%, N 6.82%; found C 87.64%, H 5.34%, N 6.76%.

reactant | biphenyl-4-carboxylic acid chloride | 50 millimols, 10.83 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | acrylonitrile | 62.5 millimols, 3.31 g | C(C=C)#N | C3H3N
product | 4-Phenylcinnamonitrile | C1(=CC=CC=C1)C1=CC=C(C=CC#N)C=C1 | C15H11N
